US08912209B2
Intermediate 5: 3-[2′-(1-tert-Butoxycarbonylamino-ethyl)-5′-(pyridin-4-ylcarbamoyl)-biphenyl-3-yl]-propionic acid
To a solution of {1-[2-bromo-4-(pyridine-4-ylcarbamoyl)-phenyl]-ethyl}-carbamic acid tert-butyl ester (3122 μmol) in a mixture of DME/EtOH/2N Na2CO3: 1/1/1 (20 ml) were added 3-carboxyethylphenylboronic acid (1.5 eq) and Pd tetrakis (0.05 eq). The reaction mixture was heated in the microwave at 160° C. for 15 minutes. The reaction mixture was cooled to RT, filtered over celite and washed with EtOAc and MeOH. The solvents were removed under reduced pressure. The compound was purified by column chromatography (silicagel, DCM/MeOH gradient).

reactant | {1-[2-bromo-4-(pyridine-4-ylcarbamoyl)-phenyl]-ethyl}-carbamic acid tert-butyl ester | 3122 μmol | C(C)(C)(C)OC(NC(C)C1=C(C=C(C=C1)C(NC1=CC=NC=C1)=O)Br)=O | C19H22BrN3O3
reactant | 3-carboxyethylphenylboronic acid | 1.5 eq | C(=O)(O)CCC=1C=C(C=CC1)B(O)O | C9H11BO4
solvent | DME EtOH | 2N | COCCOC.CCO
catalyst | Pd tetrakis | 0.05 eq | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-[2′-(1-tert-Butoxycarbonylamino-ethyl)-5′-(pyridin-4-ylcarbamoyl)-biphenyl-3-yl]-propionic acid | C(C)(C)(C)OC(=O)NC(C)C1=C(C=C(C=C1)C(NC1=CC=NC=C1)=O)C1=CC(=CC=C1)CCC(=O)O | C28H31N3O5
